US04424213
5,6-Dihydroxy-2-thiabicyclo[2.2.2]octan-3-one O-[(methylamino)carbonyl]oxime
To a solution of 6.5 g (0.048 m) of N-methylmorpholine N-oxide and 5.0 g (0.024 m) of 2-thiabicyclo[2.2.2]oct-5-en-3-one O-[(methylamino)carbonyl]oxime in 20 ml of acetone was added 15 ml of a 0.5% solution of osmium tetroxide in tert-butanol. The reaction mixture was stirred at room temperature for 48 hours, then treated with a slurry of 1 g sodium bisulfite, 15 g of magnesium silicate, and 50 ml of water. After being stirred for 30 minutes, the mixture was filtered. The filtrate was extracted with ethyl acetate, then with methylene chloride. Evaporation of the dried organic solution gave 4.8 g of viscous oil. Purification by dry column chromatography yielded 3.5 g of the title compound as a white solid, m. 123°-5° C.

reactant | N-methylmorpholine N-oxide | 6.5 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 2-thiabicyclo[2.2.2]oct-5-en-3-one O-[(methylamino)carbonyl]oxime | 5.0 g | CNC(=O)ON=C1SC2C=CC1CC2 | C9H12N2O2S
reactant | sodium bisulfite | 1 g | S([O-])(O)=O.[Na+]
reactant | magnesium silicate | 15 g | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | water | 50 ml | O | H2O
product | 5,6-Dihydroxy-2-thiabicyclo[2.2.2]octan-3-one O-[(methylamino)carbonyl]oxime | 4.8 g | CNC(=O)ON=C1SC2C(C(C1CC2)O)O | C9H14N2O4S
